US07405221B2
2-Methylthio-4-(4-chlorophenyl)-5-(2,4-dichlorophenyl)pyrimidine from Reference Example 3 was reacted with α-methyl-4-fluorobenzyl alcohol according to the procedure described in Example 59 to afford 2-(α-methyl-4-fluorobenzyloxy-)-4-(4-chlorophenyl)-5-(2,4-dichlorophenyl)pyrimidine. (HRf): HPLC/MS: m/e=473 (M++1); Rt=4.91 min; 1H-NMR 400 MHz (CDCl3): δ 1.78 (d, J=9 Hz, 3H), 6.22-6.30 (dd, J=6 Hz, J=9 Hz, 1H), 7.02 (m, 3H), 7.20-7.25 (m, 5H), 7.50-7.59 (m, 3H), 8.40 (m, 1H).

reactant | 2-Methylthio-4-(4-chlorophenyl)-5-(2,4-dichlorophenyl)pyrimidine | CSC1=NC=C(C(=N1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C17H11Cl3N2S
reactant | α-methyl-4-fluorobenzyl alcohol | CC(C1=CC=C(C=C1)F)O | C8H9FO
product | 2-(α-methyl-4-fluorobenzyloxy-)-4-(4-chlorophenyl)-5-(2,4-dichlorophenyl)pyrimidine | CC(C1=CC=C(C=C1)F)OC1=NC=C(C(=N1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C24H16Cl3FN2O
